US08278295B2
Preparation of 2-azetidin-3-yl-4-methylpyrimidine
Compound P17 was prepared according to the general procedure for the synthesis of P12 described in Preparation 51, except that 2-chloro-4-methylpyrimidine (the synthesis of 2-chloro-4-methylpyrimidine is described by D. B. Harden & M. J. Mokrosz, J. Organic Chem., 1998, 53, 4137-4140) was used instead of 2-chloro-5-methylpyrimidine, to provide P17. Yield: 647 mg, 4.34 mmol, 87%. 1H NMR (400 MHz, CD3OD) δ 2.52 (s, 3H), 4.0 (m, 2H), 4.12 (m, 2H), 4.18 (m, 1H), 7.23 (d, J=5.4 Hz, 1H), 8.59 (d, J=5.4 Hz, 1H).

reactant | 2-chloro-4-methylpyrimidine | ClC1=NC=CC(=N1)C | C5H5ClN2
reactant | 2-chloro-5-methylpyrimidine | ClC1=NC=C(C=N1)C | C5H5ClN2
product | 2-azetidin-3-yl-4-methylpyrimidine | N1CC(C1)C1=NC=CC(=N1)C | C8H11N3
